US08048884B2
1,2-Dimethyl-1H-imidazole-4-sulfonic acid {2-[3′-(2-fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl]-ethyl}-methyl-amide hydrochloride
Dissolve {2-[3′-(2-fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl]-ethyl}-methyl-amine (0.059 g, 0.190 mmol) in dichloromethane (5 mL). Add triethylamine (29 μL, 0.209 mmol) followed by 1,2-dimethyl-1H-imidazole-4-sulfonyl chloride (0.041 g, 0.209 mmol) and stir at ambient temperature for 72 hr. Concentrate under reduced pressure and purify (silica gel chromatography, eluting with 20:80 to 0:100 hexanes:ethyl acetate, then 10:90 methanol:ethyl acetate, then 20:80 methanol:ethyl acetate) to give the free base of the title compound (71 mg, 79%).

reactant | {2-[3′-(2-fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl]-ethyl}-methyl-amine | 0.190 mmol, 0.059 g | FC1=C(C=CC=C1)C=1C(=NC=CN1)N1CCN(CC1)CCNC | C17H22FN5
reactant | triethylamine | 0.209 mmol, 29 μL | C(C)N(CC)CC | C6H15N
reactant | 1,2-dimethyl-1H-imidazole-4-sulfonyl chloride | 0.209 mmol, 0.041 g | CN1C(=NC(=C1)S(=O)(=O)Cl)C | C5H7ClN2O2S
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1,2-Dimethyl-1H-imidazole-4-sulfonic acid {2-[3′-(2-fluoro-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-yl]-ethyl}-methyl-amide hydrochloride | 71 mg, 79% | Cl.FC1=C(C=CC=C1)C=1C(=NC=CN1)N1CCN(CC1)CCN(S(=O)(=O)C=1N=C(N(C1)C)C)C | InChI=1S/C22H28FN7O2S.ClH/c1-17-26-20(16-27(17)2)33(31,32)28(3)10-11-29-12-14-30(15-13-29)22-21(24-8-9-25-22)18-6-4-5-7-19(18)23;/h4-9,16H,10-15H2,1-3H3;1H
